US06310203B1
3-(5-Methylisoxazol-3-yl)-6-[1-(2,2,2-trifluoroethyl)-1,2,4-triazol-3-yl]methyloxy-1,2,4triazolo[3,4-a]phthalazine
The title-compound was prepared from 3-(5-methylisoxazol-3-yl)-6-(1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine and 2,2,2-trifluoroethylsulphonate following the procedure given for Example 47. The two regioisomers were separated by M.P.L.C. [Lobar Lichroprep Si60 (40-63 μm) (Art. 10402)], eluting with 2.5% methanol/dichloromethane, to give the title-product as the more polar isomer, 1H NMR (360 MHz, CDCl3) δ 8 2.58 (3H, s, CH3), 4.81 (2H, q, J=8.1 Hz, CH2), 5.75 (2H, s, CH2), 6.94 (1H, d, J=0.7 Hz, Ar—H), 7.80 (1H, t, J=7.2 Hz, Ar—H), 7.98 (1H, t, J=8.0 Hz, Ar—H), 8.26-8.28 (2H, m, Ar—H), 8.70 (1H, d, J=7.7 Hz, Ar—H); MS (ES+) m/e 431 [MH]+.

reactant | 3-(5-methylisoxazol-3-yl)-6-(1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NNC=N2 | C16H12N8O2
reactant | 2,2,2-trifluoroethylsulphonate | FC(CS(=O)(=O)[O-])(F)F
product | 3-(5-Methylisoxazol-3-yl)-6-[1-(2,2,2-trifluoroethyl)-1,2,4-triazol-3-yl]methyloxy-1,2,4triazolo[3,4-a]phthalazine | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NN(C=N2)CC(F)(F)F | C18H13F3N8O2
